US03936468
To a mixture of 2.0 g of lithium aluminum hydride and 50 ml of tetrahydrofuran, was gradually added a solution of 5.0 g of 1-[β-(p-fluorobenzoyl)propionyl]-4-(p-chlorophenyl)-4-hydroxypiperidine in 40 ml of tetrahydrofuran. The mixture was stirred at room temperature for one hour, and at 60°to 65°C for 4 hours. Then 15 ml of cold water was added dropwise to the reaction mixture while the mixture was kept below 20°C in an ice bath. The precipitate was filtered off and the tetrahydrofuran was removed from the filtrate by distillation under reduced pressure. The residue was kept cooled for 2 hours and the solid matter was collected by filtration, washed with water, and dried to obtain 1-(p-fluorophenyl)-4-[4-(p-chlorophenyl)-4-hydroxypiperidino]-1 -butanol, melting at 128° - 130°C.

reactant | lithium aluminum hydride | 2.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-[β-(p-fluorobenzoyl)propionyl]-4-(p-chlorophenyl)-4-hydroxypiperidine | 5.0 g | FC1=CC=C(C(=O)CCC(=O)N2CCC(CC2)(O)C2=CC=C(C=C2)Cl)C=C1 | C21H21ClFNO3
reactant | water | 15 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(p-fluorophenyl)-4-[4-(p-chlorophenyl)-4-hydroxypiperidino]-1 -butanol | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)(O)C1=CC=C(C=C1)Cl)O | C21H25ClFNO2
